.include '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/design.ngspice'
.lib '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/sm141064.ngspice' sf

* PEX produced on Sun Aug 23 10:51:50 AM CST 2026 using /home/huda/opensource-project/Microelectronic-Block-Generator/designs/notebooks/chipathon2026-D/scripts/iic-pex.sh with m=2 and s=1
* NGSPICE file created from strongarm_comparator.ext - technology: gf180mcuD

.option scale=5n

.subckt strongarm_comparator OUTN OUTP CLK INN INP VSS VDD
X0 VDD CLK OUTN VDD pfet_03v3 ad=12.992n pd=0.344m as=12.992n ps=0.344m w=232 l=120
X1 a_n4462_5328# CLK VDD VDD pfet_03v3 ad=12.992n pd=0.344m as=27.84n ps=0.704m w=232 l=120
X2 OUTP OUTN VDD VDD pfet_03v3 ad=12.992n pd=0.344m as=27.84n ps=0.704m w=232 l=120
X3 a_n2906_5328# CLK VDD VDD pfet_03v3 ad=12.992n pd=0.344m as=27.84n ps=0.704m w=232 l=120
X4 OUTN CLK VDD VDD pfet_03v3 ad=12.992n pd=0.344m as=27.84n ps=0.704m w=232 l=120
X5 a_n2906_5328# INN a_n3610_2878# VSS nfet_03v3 ad=27.84n pd=0.704m as=12.992n ps=0.344m w=232 l=120
X6 a_n4462_5328# INP a_n3610_2878# VSS nfet_03v3 ad=27.84n pd=0.704m as=12.992n ps=0.344m w=232 l=120
X7 OUTN OUTP a_n4462_5328# VSS nfet_03v3 ad=12.88n pd=0.342m as=27.6n ps=0.7m w=230 l=120
X8 OUTP OUTN a_n2906_5328# VSS nfet_03v3 ad=27.6n pd=0.7m as=12.88n ps=0.342m w=230 l=120
X9 a_n3610_2878# INP a_n4462_5328# VSS nfet_03v3 ad=12.992n pd=0.344m as=12.992n ps=0.344m w=232 l=120
X10 a_n3610_2878# INN a_n2906_5328# VSS nfet_03v3 ad=12.992n pd=0.344m as=12.992n ps=0.344m w=232 l=120
X11 a_n4462_5328# INP a_n3610_2878# VSS nfet_03v3 ad=12.992n pd=0.344m as=27.84n ps=0.704m w=232 l=120
X12 a_n2906_5328# INN a_n3610_2878# VSS nfet_03v3 ad=12.992n pd=0.344m as=27.84n ps=0.704m w=232 l=120
X13 OUTN OUTP VDD VDD pfet_03v3 ad=27.84n pd=0.704m as=12.992n ps=0.344m w=232 l=120
X14 OUTP OUTN a_n2906_5328# VSS nfet_03v3 ad=12.88n pd=0.342m as=12.88n ps=0.342m w=230 l=120
X15 OUTP CLK VDD VDD pfet_03v3 ad=12.992n pd=0.344m as=27.84n ps=0.704m w=232 l=120
X16 OUTN OUTP VDD VDD pfet_03v3 ad=12.992n pd=0.344m as=27.84n ps=0.704m w=232 l=120
X17 OUTP OUTN a_n2906_5328# VSS nfet_03v3 ad=12.88n pd=0.342m as=27.6n ps=0.7m w=230 l=120
X18 VDD OUTP OUTN VDD pfet_03v3 ad=12.992n pd=0.344m as=12.992n ps=0.344m w=232 l=120
X19 a_n2906_5328# OUTN OUTP VSS nfet_03v3 ad=12.88n pd=0.342m as=12.88n ps=0.342m w=230 l=120
X20 VSS CLK a_n3610_2878# VSS nfet_03v3 ad=27.6n pd=0.7m as=12.88n ps=0.342m w=230 l=120
X21 VDD OUTN OUTP VDD pfet_03v3 ad=12.992n pd=0.344m as=12.992n ps=0.344m w=232 l=120
X22 a_n4462_5328# CLK VDD VDD pfet_03v3 ad=27.84n pd=0.704m as=12.992n ps=0.344m w=232 l=120
X23 VDD CLK OUTP VDD pfet_03v3 ad=12.992n pd=0.344m as=12.992n ps=0.344m w=232 l=120
X24 a_n4462_5328# OUTP OUTN VSS nfet_03v3 ad=12.88n pd=0.342m as=12.88n ps=0.342m w=230 l=120
X25 VSS CLK a_n3610_2878# VSS nfet_03v3 ad=12.88n pd=0.342m as=12.88n ps=0.342m w=230 l=120
X26 a_n4462_5328# OUTP OUTN VSS nfet_03v3 ad=12.88n pd=0.342m as=12.88n ps=0.342m w=230 l=120
X27 OUTP OUTN VDD VDD pfet_03v3 ad=27.84n pd=0.704m as=12.992n ps=0.344m w=232 l=120
X28 VDD CLK a_n4462_5328# VDD pfet_03v3 ad=12.992n pd=0.344m as=12.992n ps=0.344m w=232 l=120
X29 OUTN OUTP a_n4462_5328# VSS nfet_03v3 ad=12.88n pd=0.342m as=12.88n ps=0.342m w=230 l=120
X30 a_n2906_5328# OUTN OUTP VSS nfet_03v3 ad=12.88n pd=0.342m as=12.88n ps=0.342m w=230 l=120
X31 a_n2906_5328# CLK VDD VDD pfet_03v3 ad=27.84n pd=0.704m as=12.992n ps=0.344m w=232 l=120
X32 a_n3610_2878# CLK VSS VSS nfet_03v3 ad=12.88n pd=0.342m as=27.6n ps=0.7m w=230 l=120
X33 OUTN CLK VDD VDD pfet_03v3 ad=27.84n pd=0.704m as=12.992n ps=0.344m w=232 l=120
X34 a_n3610_2878# CLK VSS VSS nfet_03v3 ad=12.88n pd=0.342m as=12.88n ps=0.342m w=230 l=120
X35 VDD CLK a_n2906_5328# VDD pfet_03v3 ad=12.992n pd=0.344m as=12.992n ps=0.344m w=232 l=120
X36 OUTP CLK VDD VDD pfet_03v3 ad=27.84n pd=0.704m as=12.992n ps=0.344m w=232 l=120
X37 OUTN OUTP a_n4462_5328# VSS nfet_03v3 ad=27.6n pd=0.7m as=12.88n ps=0.342m w=230 l=120
C0 VDD OUTN 7.98194f
C1 a_n3610_2878# CLK 0.33043f
C2 a_n2906_5328# OUTP 2.34265f
C3 a_n3610_2878# a_n4462_5328# 1.34254f
C4 a_n4462_5328# INP 0.15248f
C5 a_n2906_5328# CLK 0.88978f
C6 a_n3610_2878# INN 0.27461f
C7 a_n2906_5328# a_n4462_5328# 0.7705f
C8 a_n2906_5328# OUTN 0.6092f
C9 a_n2906_5328# INN 0.15248f
C10 CLK OUTP 0.48044f
C11 a_n4462_5328# OUTP 0.43375f
C12 a_n2906_5328# VDD 2.83161f
C13 OUTN OUTP 2.8305f
C14 a_n4462_5328# CLK 0.56313f
C15 CLK OUTN 0.31351f
C16 a_n3610_2878# INP 0.28429f
C17 a_n4462_5328# OUTN 1.79934f
C18 VDD OUTP 7.76984f
C19 a_n3610_2878# a_n2906_5328# 1.21165f
C20 VDD CLK 8.51842f
C21 a_n4462_5328# VDD 3.36591f
C22 INN VSS 1.47521f
C23 INP VSS 1.4356f
C24 OUTP VSS 6.16931f
C25 OUTN VSS 6.27187f
C26 CLK VSS 5.20285f
C27 VDD VSS 41.5714f
C28 a_n3610_2878# VSS 5.88664f ; **FLOATING
C29 a_n2906_5328# VSS 3.10464f ; **FLOATING
C30 a_n4462_5328# VSS 3.38238f ; **FLOATING
.ends

Vsupply0 VDD 0 3.6
Vsupply1 VSS 0 0.0
Vsrc0 INP 0 DC 1.6524999999999999
Vsrc1 INN 0 DC 1.6475
Vsrc2 CLK 0 PULSE(0 3.6 10n 50p 50p 40n 100n)
C_load_OUTP OUTP 0 20f
C_load_OUTN OUTN 0 20f
Xdut OUTN OUTP CLK INN INP VSS VDD strongarm_comparator

.temp -40
.control
tran 20p 120n
wrdata tran.dat v(OUTP) v(OUTN)
meas tran avg_current AVG i(Vsupply0) from=10n to=110n
.endc
.end
